US04304720
A mixture of N,N'-diisopropylcarbodiimide (12.6 g, 0.1 mole), oleyl alcohol (26.8 g, 0.1 mole) and cuprous chloride (60 mg) is stirred at room temperature for 4 hours. Infrared analysis shows the reaction to be virtually complete. The reaction mixture is placed on a column of alumina (454 g) and eluted with methylene chloride to give 36.2 g of O-oleyl-N,N'-diisopropylisourea. The product is identified by mass spectrometry (molecular ion at m/e 394), infrared spectroscopy (the C=N band at 1660 cm-1) and nuclear magnetic resonance in deuterated chloroform; resonances are given in δ relative to tetramethylsilane: 0.9-2.2 (mutiplet 37 protons); 2.9-3.8 (multiplet 3 protons); 4.0 (triplet, 2 protons) 5.3 (multiplet, 2 protons).

reactant | N,N'-diisopropylcarbodiimide | 0.1 mole, 12.6 g | C(C)(C)N=C=NC(C)C | C7H14N2
reactant | oleyl alcohol | 0.1 mole, 26.8 g | C(CCCCCCC\C=C/CCCCCCCC)O | C18H36O
product | O-oleyl-N,N'-diisopropylisourea | 36.2 g | C(CCCCCCC\C=C/CCCCCCCC)OC(NC(C)C)=NC(C)C | C25H50N2O
